US08466281B2
tert-butyl(dimethyl)[(2R)-oxiran-2-ylmethoxy]silane (A-1)
A solution of (S)-glycidol (2.5 g, 33.7 mmol) in 100 mL of 1:1 DCM/DMF was cooled to 0° C. and treated with TBDMS-Cl (6.10 g, 40.5 mmol) and imidazole (3.45 g, 50.6 mmol). The mixture was stirred overnight at 0° C. Solution was diluted with DCM and washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4 and concentrated to provide A-1 as a colorless oil. Data for A-1: LRMS m/z (M+H)=189.21 found; 189.34 required

reactant | (S)-glycidol | 33.7 mmol, 2.5 g | C1[C@@H](O1)CO | C3H6O2
reactant | TBDMS-Cl | 40.5 mmol, 6.10 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 50.6 mmol, 3.45 g | N1C=NC=C1 | C3H4N2
solvent | DCM DMF | 100 mL | C(Cl)Cl.CN(C)C=O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl(dimethyl)[(2R)-oxiran-2-ylmethoxy]silane | C(C)(C)(C)[Si](OC[C@@H]1OC1)(C)C | C9H20O2Si
